US05302720
A mixture of 4'-fluoro-2-biphenylylcyanamide (1 g) and 4-hydroxypiperidine (0.6 g) in ethanol (10 ml) was heated at 90°-95° C. for 3 hours to give N-(4'-fluoro-2-biphenylyl)-4-hydroxypiperidine-1-carboxamidine as a colourless solid (m.p. 132°-133° C.) which was recrystallised from ethylacetate.

reactant | 4'-fluoro-2-biphenylylcyanamide | 1 g | FC1=CC=C(C=C1)C1=C(C=CC=C1)NC#N | C13H9FN2
reactant | 4-hydroxypiperidine | 0.6 g | OC1CCNCC1 | C5H11NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(4'-fluoro-2-biphenylyl)-4-hydroxypiperidine-1-carboxamidine | FC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=N)N1CCC(CC1)O | C18H20FN3O
